US07563815B2
To a solution of butyl 1-[(trans-4-tert-butylcyclohexyl)(5-hydroxy-1-methyl-1H-benzimidazol-2-yl)amino]indane-5-carboxylate (49.0 mg, 0.095 mmol) in dry dichloromethane was added 1-propanol (18.0 □L, 0.24 mmol), diisopropyl azodicarboxylate (37.0 μL, 0.19 mmol) and Ph3P (50.0 mg, 0.19 mmol). After stirring at room temperature for 2 h, solvent was removed. Chromatography (15% EtOAc in Hexane) afforded butyl 1-[(trans-4-tert-butylcyclohexyl)(1-methyl-5-propoxy-1H-benzimidazol-2-yl)amino]indane-5-carboxylate. HPLC/MS: m/z=560.5 (M+1), Rt=2.43 min.

reactant | butyl 1-[(trans-4-tert-butylcyclohexyl)(5-hydroxy-1-methyl-1H-benzimidazol-2-yl)amino]indane-5-carboxylate | 0.095 mmol, 49.0 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)N(C1CCC2=CC(=CC=C12)C(=O)OCCCC)C1=NC2=C(N1C)C=CC(=C2)O | C32H43N3O3
reactant | 1-propanol | 0.24 mmol | C(CC)O | C3H8O
reactant | diisopropyl azodicarboxylate | 0.19 mmol, 37.0 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | Ph3P | 0.19 mmol, 50.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | dichloromethane | ClCCl | CH2Cl2
product | butyl 1-[(trans-4-tert-butylcyclohexyl)(1-methyl-5-propoxy-1H-benzimidazol-2-yl)amino]indane-5-carboxylate | C(C)(C)(C)[C@@H]1CC[C@H](CC1)N(C1CCC2=CC(=CC=C12)C(=O)OCCCC)C1=NC2=C(N1C)C=CC(=C2)OCCC | C35H49N3O3
